US05308857
A suspension of 2-(diaminomethyleneamino)-4-(5-thioureidomethylfuran-2-yl)thiazole (1.0 g) and methyl iodide (600 mg) in methanol was stirred at room temperature for 34 hours. The solvent was removed under reduced pressure to afford 2-(diaminomethyleneamino)-4-[5-(2-methyl-3-isothioureido)methylfuran-2-yl]thiazole hydriodide (1.3 g).

reactant | 2-(diaminomethyleneamino)-4-(5-thioureidomethylfuran-2-yl)thiazole | 1.0 g | NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC(=S)N | C10H12N6OS2
reactant | methyl iodide | 600 mg | CI | CH3I
solvent | methanol | CO | CH4O
product | 2-(diaminomethyleneamino)-4-[5-(2-methyl-3-isothioureido)methylfuran-2-yl]thiazole hydriodide | 1.3 g | I.NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CN=C(SC)N | InChI=1S/C11H14N6OS2.HI/c1-19-10(14)15-4-6-2-3-8(18-6)7-5-20-11(16-7)17-9(12)13;/h2-3,5H,4H2,1H3,(H2,14,15)(H4,12,13,16,17);1H
